US04831027
6,7-Diamino-4,4-dimethyl-4H-3,1-benzoxazin-2-one dihydrochloride
35.6 g (0.15 mol) of 6-amino-4,4-dimethyl-7-nitro-4H-3,1-benzoxazin-2-one are dissolved in 500 ml of methanol and 60 ml of 7.5 N methanolic hydrochloric acid, 3.5 g of 10% Palladium/charcoal are added and the resulting mixture is hydrogenated for 45 minutes in an autoclave at ambient temperature under 5 bar of hydrogen pressure. The catalyst is then removed by suction filtering and the filtrate is diluted to 2 liters with ether. The precipitate is suction filtered, washed with ether and dried.

reactant | 6-amino-4,4-dimethyl-7-nitro-4H-3,1-benzoxazin-2-one | 0.15 mol, 35.6 g | NC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)[N+](=O)[O-] | C10H11N3O4
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 7.5 N, 60 ml | Cl | ClH
solvent | methanol | 500 ml | CO | CH4O
catalyst | Palladium/charcoal | 3.5 g | [Pd] | Pd
product | 6,7-Diamino-4,4-dimethyl-4H-3,1-benzoxazin-2-one dihydrochloride | Cl.Cl.NC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)N | InChI=1S/C10H13N3O2.2ClH/c1-10(2)5-3-6(11)7(12)4-8(5)13-9(14)15-10;;/h3-4H,11-12H2,1-2H3,(H,13,14);2*1H
